US07696226B2
(3S,4S)-3-[(methoxycarbonyl)amino]-4-methylhexanoic acid
(L)-isoleucine (7.43 g, 57 mmol) was dissolved in dioxane (28 mL) and treated with 2N sodium hydroxide (93.5 mL, 3.3 equivalents) and methyl chloroformate (8.75 mL, 2 equivalents) at 60° C. for 16 hrs. The mixture was extracted with dichloromethane (2×). The mixture made acidic with 4N HCl, and extracted with ethyl acetate (3×), dried over sodium sulfate, filtered and the solvents were evaporated to give 8.6 g (80%) of the title compound.

reactant | (L)-isoleucine | 57 mmol, 7.43 g | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | sodium hydroxide | 2N, 93.5 mL, 3.3 equivalents | [OH-].[Na+]
reactant | methyl chloroformate | 8.75 mL, 2 equivalents | ClC(=O)OC | C2H3ClO2
reactant | dioxane | 28 mL | O1CCOCC1 | C4H8O2
product | (3S,4S)-3-[(methoxycarbonyl)amino]-4-methylhexanoic acid | 8.6 g, 80% | COC(=O)N[C@@H](CC(=O)O)[C@H](CC)C | C9H17NO4
